* source c:/Users/E151509/Documents/CoolSpice/MyCircuits/flip_flop_path_delay_start.net
.include "./MOSIS.txt"
 
*********** define parameters *********** 
.param vdd = 3.3 
.param Lmin = 0.35u 
 
 
***************** define stimulii ********************* 
vdd vdd 0 vdd 

**** CLOCK 
Va  clk 0 pwl(0n 0 4n 0 4.1n 3.3 8n 3.3 8.1n 0 12n 0 12.1n 3.3 16n 3.3 16.1n 0 20n 0 20.1n 3.3 24n 3.3 24.1n 0 28.0n 0 28.1n 3.3 32.0n 3.3 32.1n 0 36.0n 0 36.1n 3.3 40.0n 3.3 40.1 0)
**** Flip-flop data input******
Vb data 0 pwl(0n 0 15.0n 3.3 15.1n 0 27.0n 0 27.1n 3.3)

 
***** define global nodes for use in subcircuits ***** 
.global vdd 

.subckt ptran gate drain source Wp=1.0u
Mp1 drain gate source vdd tsmc0p35pmos W=Wp L=Lmin 
+ PD='Wp + 6*Lmin' PS='Wp + 6*Lmin' 
+ AD='3*Wp*Lmin' AS='3*Wp*Lmin' 
.ends 

.subckt ntran gate drain source Wn=1.0u 
Mn1 drain gate source 0 tsmc0p35nmos W=Wn L=Lmin 
+ PD='Wn + 6*Lmin' PS='Wn + 6*Lmin' 
+ AD='3*Wn*Lmin' AS='3*Wn*Lmin' 
.ends 

.subckt inv in out Wp=1.0u Wn=1.0u
Xpmos in out vdd ptran Wp=Wp
Xnmos in out 0   ntran Wn=Wn
.ends

.subckt tgate ngate pgate in out Wp=1.0u Wn=1.0u
Xpmos pgate in out ptran Wp=Wp
Xnmos ngate in out ntran Wn=Wn
.ends

.subckt flip_flop data q clk
** MASTER D LATCH
Xinv0 clk clkb inv Wp=4.0u Wn=2.0u
Xtgate0 clkb clk data n1 tgate Wp=4.0u Wn=2.0u
Xinv1 n1 n2 inv Wp=8.0u Wn=4.0u
Xinv3 n2 n3 inv Wp=2.0u Wn=1.0u
Xtgate1 clk clkb n3 n1 tgate Wp=4.0u Wn=2.0u

** SLAVE D LATCH
Xtgate2 clk clkb n2 n5 tgate Wp=4.0u Wn=2.0u
Xinv4 n5 n6 inv Wp=4.0u Wn=2.0u
Xinv6 n6 n7 inv Wp=2.0u Wn=1.0u
Xinv5 n5 q  inv Wp=4.0u Wn=2.0u
Xtgate3 clkb clk n7 n5 tgate Wp=4.0u Wn=2.0u
.ends



********* define main circuit ****************** 
Xff0  data q0 clk flip_flop
C0  q0  0 0.2p 

*these are the inverters
Xinv0  q0 n1  inv Wp=4.0u Wn=2.0u
C1  n1  0 0.2p 
Xinv1  n1 n2  inv Wp=4.0u Wn=2.0u
C2  n2  0 0.2p 
Xinv2 n2 n3 inv Wp=4.0u Wn=2.0u
C3 n3 0 0.2p
*these are the new ones
xinv3 n3 n4 inv Wp=4.0u Wn=2.0u
C4 n4 0 0.2p
xinv4 n4 n5 inv Wp=4.0u Wn=2.0u
C5 n5 0 0.2p
xinv5 n5 n6 inv Wp=4.0u Wn=2.0u
C6 n6 0 0.2p
xinv6 n6 n7 inv Wp=4.0u Wn=2.0u
C7 n7 0 0.2p
xinv7 n7 n8 inv Wp=4.0u Wn=2.0u
C8 n8 0 0.2p
xinv8 n8 n9 inv Wp=4.0u Wn=2.0u
C9 n9 0 0.2p

*this is the flip flop dont mess with it
Xff1   n9 q1 clk flip_flop
C99 q1  0 0.2p 


****** Anlysis Options ********** 
.tran 5p 42n  

.meas tran tlh_clk_to_q trig v(clk) td=10ns val='vdd/2' cross=1 
+ targ v(q) td=10ns val='vdd/2' cross=1 
.meas tran thl_clk_to_q trig v(clk) td=18ns val='vdd/2' cross=1 
+ targ v(q) td=18ns val='vdd/2' cross=1 

.meas tran tlh_setup trig v(data) td=11ns val='vdd/2' cross=1 
+ targ v(clk) td=11ns val='vdd/2' cross=1 
.meas tran thl_setup trig v(data) td=19ns val='vdd/2' cross=1 

+ targ v(clk) td=19ns val='vdd/2' cross=1 
.meas tran thigh_hold trig v(clk) td=11ns val='vdd/2' cross=1 
+ targ v(data) td=11ns val='vdd/2' cross=1 
.meas tran tlow_hold trig v(clk) td=19.5ns val='vdd/2' cross=1 
+ targ v(data) td=19.5ns val='vdd/2' cross=1 

.end 

.control
set color0 = white      ;background
set color1 = black      ;text and grid
run 
set xbrushwidth = 3
*plot v(clk) v(data) v(q0) v(n2) v(q1) ydelta 2
*plot v(clk) v(data) v(q0) v(n1) v(n2) xdelta 3n ydelta 2 xlimit 27.0n 31.0n 
plot v(clk) v(n9) v(n8) v(q1) xdelta 2n ydelta 2 xlimit 35.0n 38.0n 
.endc

